US04970157
L-phenylalanine was synthesized using cells of E. coli RR1 containing the plasmid pBPDH3. As an NADH regeneration system, enzymes for glycolysis in E. coli were used. The above-mentioned E. coli was inoculated in an LB medium containing 50 μg/ml of ampicillin at a ratio of 1%, and cultured at 37° C. for 6 hours. The 5 ml of the cultured broth was centrifuged to collect cells, which were then washed with a 0.85% NaCl solution. The cells were suspended in 3 ml of a reaction mixture containing 200 μ moles of an NH4Cl-NH4OH buffer (pH 9.0), 109 μ moles of a sodium phenylpyruvate, and 267 μ moles of a lactose, and the suspension was allowed to stand at 30° C. for 24 hours. As a result, 20 mg/ml (yield 33%) of L-phenylalanine was accumulated, as determined by the above-mentioned L-phenylalanine assay procedure.

reactant | NADH | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
reactant | ampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C | C16H19N3O4S
reactant | NH4Cl NH4OH | 200 μ moles, pH 9.0 | [NH4+].[Cl-].[NH4+].[OH-]
reactant | sodium phenylpyruvate | 109 μ moles | C1(=CC=CC=C1)CC(C(=O)[O-])=O.[Na+]
reactant | lactose | 267 μ moles | OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO | C12H22O11
product | L-phenylalanine | yield 33% | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
